US04123529
(a) N-Phenacyl-3-bromopropanamide
3-Bromopropionyl chloride (25 g; 0.146 mole) was added slowly to a stirred suspension of phenacylamine hydrochloride (17.15 g; 0.1 mole) in dry dimethylformamide (50 ml) at room temperature. The internal temperature rose to ca. 40° C. The mixture was stirred for 2 hours and the DMF removed under vacuum. The residue was diluted with water (200 ml) and the crystalline solid collected, washed with water and dried. Weight of product = 9.49 g (35%), m.p. 114° C.

reactant | 3-Bromopropionyl chloride | 0.146 mole, 25 g | BrCCC(=O)Cl | C3H4BrClO
reactant | phenacylamine hydrochloride | 0.1 mole, 17.15 g | Cl.C(C(=O)C1=CC=CC=C1)N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-Phenacyl-3-bromopropanamide | C(C(=O)C1=CC=CC=C1)NC(CCBr)=O | C11H12BrNO2
